CIRCUIT D:\I\TMU\Autumn-2006\Integrated\mw-tools\Export Microwind\h2pp.MSK
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
*
* List of nodes
* "N2" corresponds to n°2
* "N3" corresponds to n°3
* "N4" corresponds to n°4
* "N6" corresponds to n°6
* "N7" corresponds to n°7
* "N8" corresponds to n°8
* "N9" corresponds to n°9
*
* MOS devices
MN1 14 15 0 0 N1  W= 1.20U L= 0.12U
MN2 13 15 10 0 N1  W= 1.26U L= 0.12U
MN3 12 14 10 0 N1  W= 8.46U L= 0.12U
MN4 10 16 9 0 N1  W= 9.60U L= 0.12U
MN5 8 17 0 0 N1  W= 1.20U L= 0.12U
MN6 7 17 3 0 N1  W= 1.26U L= 0.12U
MN7 6 8 4 0 N1  W= 8.46U L= 0.12U
MN8 3 18 2 0 N1  W= 9.60U L= 0.12U
*
C2 2 0  2.678fF
C3 3 0  3.257fF
C4 4 0  2.351fF
C6 6 0  2.351fF
C7 7 0  0.378fF
C8 8 0  1.080fF
C9 9 0  2.678fF
C10 10 0  6.525fF
C12 12 0  2.351fF
C13 13 0  0.378fF
C14 14 0  1.080fF
C15 15 0  0.150fF
C16 16 0  0.478fF
C17 17 0  0.150fF
C18 18 0  0.478fF
C19 1 0  0.013fF
C20 1 0  0.023fF
C21 1 0  0.023fF
C22 1 0  0.013fF
*
* Extra RLC
*
Radd1 1 14 25000
Radd2 1 13 100000
Radd3 1 8 25000
Radd4 1 7 100000
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 5.00N
* (Pspice)
.PROBE
.END
